US04115382
A. 2-[3-(Dimethylamino)propoxy]-N-[[3-(trifluoromethyl)phenyl]methylene]benzenamine
A solution of 19.4g of 2-(3-dimethylaminopropoxy)aniline and 17.4g of m-trifluoromethylbenzaldehyde in 100ml of xylene is refluxed for about 6 hours. The water formed in the reaction is collected in a Dean-Stark tube. The solvent is removed under reduced pressure and the residue fractionated to yield 18.4g of the title compound as an oil, boiling point 155°-160° C. at 0.2-0.3 mm. of Hg.

reactant | 2-(3-dimethylaminopropoxy)aniline | 19.4g | CN(CCCOC1=C(N)C=CC=C1)C | C11H18N2O
reactant | m-trifluoromethylbenzaldehyde | 17.4g | FC(C=1C=C(C=O)C=CC1)(F)F | C8H5F3O
reactant | water | O | H2O
solvent | xylene | 100ml | C=1(C(=CC=CC1)C)C | C8H10
product | 2-[3-(Dimethylamino)propoxy]-N-[[3-(trifluoromethyl)phenyl]methylene]benzenamine | 18.4g | CN(CCCOC1=C(C=CC=C1)N=CC1=CC(=CC=C1)C(F)(F)F)C | C19H21F3N2O
